US04269773
To a solution of 1.45 g of methyl α-(3ξ-carboxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 7 ml of methylene chloride is added 1.2 ml of thionyl chloride, and the mixture refluxed under heating for 2 hours and concentrated under reduced pressure. The resulting residue [methyl α-(3ξ-chlorocarbonyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate] is dissolved in 20 ml of tetrahydrofuran and mixed with 15 ml of ether solution of diazomethane which has been prepared from 1.5 g of nitrosomethylurea, and the mixture is kept at room temperature for 30 minutes. Into the resulting solution of methyl α-(3ξ-diazoacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptn-6-yl)-α-isopropylideneacetate is introduced hydrogen chloride gas under ice-cooling until the spot of diazo ketone disappears. The mixture is concentrated under reduced pressure, and the residue is purified by chromatography on 17 g of silica gel containing 10% water and eluted with benzene containing 10% ethyl acetate to yield 1.19 g of methyl α-(3ξ-chloroacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 75.3% yield.

reactant | methyl α-(3ξ-carboxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 1.45 g | C(=O)(O)C1NC2(C(N(C2O1)C(C(=O)OC)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C19H20N2O7
reactant | thionyl chloride | 1.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | α-isopropylideneacetate | C(C)(C)=CC(=O)[O-]
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | methyl α-(3ξ-chloroacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 1.19 g, 75.3% yield | ClCC(=O)C1NC2(C(N(C2O1)C(C(=O)OC)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C20H21ClN2O6
